US07351708B2
Step 1: 6-(4-Cyclopentyl-piperazin-1-yl)-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid ethyl ester
A mixture of 1 g (3.7 mmol) 6-bromo-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid ethyl ester (prepared according to the method described in WO 2003/064423 A1) and 2.8 g (18.6 mmol) 1-cyclopentyl-piperazine (commercially available) was heated to 140° C. for 1 h. The mixture was absorbed on isolute and purified by flash column chromatography on silica eluting with a gradient formed from n-heptane and ethyl acetate (0.1% NEt3). Evaporation of the product fractions yielded 501 mg (39%) of the title compound as white solid. MS: (m/e): 343.4 (MH+).

reactant | 6-bromo-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid ethyl ester | 3.7 mmol, 1 g | C(C)OC(=O)C1=CC=2C(=NC(=CC2)Br)N1 | C10H9BrN2O2
reactant | 1-cyclopentyl-piperazine | 18.6 mmol, 2.8 g | C1(CCCC1)N1CCNCC1 | C9H18N2
product | 6-(4-Cyclopentyl-piperazin-1-yl)-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid ethyl ester | 501 mg, 39% | C(C)OC(=O)C1=CC=2C(=NC(=CC2)N2CCN(CC2)C2CCCC2)N1 | C19H26N4O2
